US05231179
To a solution of 1,4,4,5,5-pentamethylimidazolidin-2-one (14 mg; 0.091 mmol) in dry tetrahydrofuran (0.2 ml), a 1.57 N solution of n-butyl lithium in hexane (0.06 ml; 0.1 mmol) was added at 0° C. After 5 minutes, a solution of 2-bromopropionyl bromide (24 mg; 0.11 mmol) in dry tetrahydrofuran (0.1 ml) was added thereto at the same temperature and followed by stirring for 10 minutes. A phosphate buffer (pH 7.0) was added to decompose the excess reaction agent. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were successively washed with a 5% aqueous solution of sodium bicarbonate and brine and dried over anhydrous magnesium sulfate. After removal of the solvent under reduced pressure, the residue was purified by preparative thin layer chromatography (benzene:ethyl acetate=5:1) to give 3-(2'-bromopropionyl)-1,4,4,5,5-pentamethylimidazolidin-2-one.

reactant | 1,4,4,5,5-pentamethylimidazolidin-2-one | 0.091 mmol, 14 mg | CN1C(NC(C1(C)C)(C)C)=O | C8H16N2O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.1 mmol, 0.06 ml | CCCCCC | C6H14
reactant | 2-bromopropionyl bromide | 0.11 mmol, 24 mg | BrC(C(=O)Br)C | C3H4Br2O
reactant | phosphate | pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | tetrahydrofuran | 0.2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.1 ml | O1CCCC1 | C4H8O
product | 3-(2'-bromopropionyl)-1,4,4,5,5-pentamethylimidazolidin-2-one | BrC(C(=O)N1C(N(C(C1(C)C)(C)C)C)=O)C | C11H19BrN2O2
